US08426411B2
Step H: 3-ethyl-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanone
A solution of 3-ethyl-4-((6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanone (0.296 g, 0.741 mmol) in THF (2.96 mL) was cooled to about 0° C. and to it was added DIBAL-H (1M in cyclohexane, 1.482 mL, 1.482 mmol). The reaction was stirred for about 45 min. The reaction was quenched with MeOH (3 mL). To the reaction mixture was added saturated aqueous NH4Cl (10 mL) and EtOAc (10 mL). The organic layer was collected and washed with brine (10 mL), dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to provide the crude material. The crude material was purified by silica gel column chromatography using 0-5% MeOH/CH2Cl2 to provide a scalemic mixture enriched in (1S,3R,4S)-3-ethyl-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanol (148 mg, 0.369 mmol, 50%) and a scalemic mixture enriched in (1R,3R,4S)-3-ethyl-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanol (60 mg, 0.149 mmol, 20%) both as amorphous solids. LC/MS (Table 1, Method a) Rt=2.37 min; MS m/z: 402 (M+H)+ and Rt=2.16 min; MS m/z: 402 (M+H)+ respectively.

reactant | (1S,3R,4S)-3-ethyl-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanol | 0.369 mmol, 148 mg | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)O | C20H31N5O2Si
reactant | (1R,3R,4S)-3-ethyl-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanol | 0.149 mmol, 60 mg | C(C)[C@@H]1C[C@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)O | C20H31N5O2Si
product | 3-ethyl-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanone | C(C)C1CC(CC1C1=NN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)=O | C20H29N5O2Si
